US06900215B2
3-Bromo-7-trifluoromethylimidazo[1,2-α]pyrimidine was coupled with 6,2′-difluoro-5′-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)biphenyl-2-carbonitrile as described in Example 1 to give 6,2′-difluoro-5′-(7-trifluoromethylimidazo[1,2-α]pyrimidin-3-yl)biphenyl-2-carbonitrile as an off-white solid: δH (400 MHz, CDCl3) 7.29 (1H, d, J 7), 7.44-7.71 (6H, m), 8.11 (1H, s), 9.00 (1H, d, J 7); m/z (ES+) 401 (M++H).

reactant | 3-Bromo-7-trifluoromethylimidazo[1,2-α]pyrimidine | BrC1=CN=C2N1C=CC(=N2)C(F)(F)F | C7H3BrF3N3
reactant | 6,2′-difluoro-5′-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)biphenyl-2-carbonitrile | FC=1C=CC=C(C1C1=C(C=CC(=C1)B1OC(C(O1)(C)C)(C)C)F)C#N | C19H18BF2NO2
product | 6,2′-difluoro-5′-(7-trifluoromethylimidazo[1,2-α]pyrimidin-3-yl)biphenyl-2-carbonitrile | FC=1C=CC=C(C1C1=C(C=CC(=C1)C1=CN=C2N1C=CC(=N2)C(F)(F)F)F)C#N | C20H9F5N4
